US04720495
2.08 g (0.005 mole) of 9-fluoro-5-methyl-8-(3,4-dimethyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid ethyl ester was suspended in 5 ml of ethanol, 30 ml of a 2N aqueous solution of sodium hydroxide was added thereto, and this mixture was stirred at 15°-20° C. for 3 hours to hydrolyze the starting material. The resulting reaction solution was adjusted to pH 1 by the addition of concentrated hydrochloric acid under cooling with ice. The crystals which separated out were collected by filtration and successively washed with small volumes of water and ethanol. These crystals were recrystallized from water to obtain 1.62 g (73.2% yield) of 9-fluoro-5-methyl-8-(3,4-dimethyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride monohydrate in the form of yellow crystals. These crystals had a melting point of 226°-228° C. (dec.).

reactant | 9-fluoro-5-methyl-8-(3,4-dimethyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid ethyl ester | 0.005 mole, 2.08 g | C(C)OC(=O)C1=CN2C(CC(C3=C2C(C1=O)=CC(=C3N3CC(N(CC3)C)C)F)=O)C | C22H26FN3O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 9-fluoro-5-methyl-8-(3,4-dimethyl-1-piperazinyl)-6,7-dihydro-1,7-dioxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride monohydrate | 1.62 g, 73.2% yield | O.Cl.FC1=C(C=2C(CC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)=O)N1CC(N(CC1)C)C | InChI=1S/C20H22FN3O4.ClH.H2O/c1-10-6-15(25)16-17-12(19(26)13(20(27)28)9-24(10)17)7-14(21)18(16)23-5-4-22(3)11(2)8-23;;/h7,9-11H,4-6,8H2,1-3H3,(H,27,28);1H;1H2
